US06150479
Benzoyl imidazole was prepared by the above procedure using benzoyl chloride (28.1 grams, 200 mmole) and 2-methylimidazole (16.4 grams, 210 mmole), in an amount of 22.4 grams (60% yield).

reactant | benzoyl chloride | 200 mmole, 28.1 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-methylimidazole | 210 mmole, 16.4 grams | CC=1NC=CN1 | C4H6N2
product | Benzoyl imidazole | 60% yield | C(C1=CC=CC=C1)(=O)C=1NC=CN1 | C10H8N2O
